US06689733B1
N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-2-methylpropane-1,2-diamine
Synthesis and working up are carried out as in Example 9, starting from 500 mg (2.59 mmol) of 4-(N-isopropyl-N-methylamino)salicylaldehyde and 109 mg (1.23 mmol) of 1,2-diamino-2-methylpropane.

reactant | 4-(N-isopropyl-N-methylamino)salicylaldehyde | 2.59 mmol, 500 mg | C(C)(C)N(C)C=1C=C(C(C=O)=CC1)O | C11H15NO2
reactant | 1,2-diamino-2-methylpropane | 1.23 mmol, 109 mg | NCC(C)(C)N | C4H12N2
product | N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-2-methylpropane-1,2-diamine | C(C)(C)N(C)C=1C=C(C(C=NCC(C)(N=CC=2C(O)=CC(=CC2)N(C(C)C)C)C)=CC1)O | C26H38N4O2
